US04255565
A method for producing N2 -phenyl-2,6-diaminonebularine, which comprises reacting 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide with a reactive derivative of propionic acid to yield 5-amino-1-(2,3,5,-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide, dehydrating 5-amino-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide to yield 5-amino-4-cyano-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole, treating 5-amino-4-cyano-1-(2,3,5-tri-O-propionyl-β-D-ribofuranosyl)imidazole with aqueous ammonia or alkali metal alkoxide to yield 5-amino-1-β-D-ribofuranosyl-4-cyanoimidazole and reacting 5-amino-1-β-D-ribofuranosyl-4-cyanoimidazole with phenylcyanamide in the presence of ammonia to yield N2 -phenyl-2,6-diaminonebularine.

reactant | 5-amino-1-β-D-ribofuranosylimidazole-4-carboxamide | NC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)N | C9H14N4O5
reactant | propionic acid | C(CC)(=O)O | C3H6O2
product | 5-amino-1-(2,3,5,-tri-O-propionyl-β-D-ribofuranosyl)imidazole-4-carboxamide | NC1=C(N=CN1[C@H]1[C@H](OC(CC)=O)[C@H](OC(CC)=O)[C@H](O1)COC(CC)=O)C(=O)N | C18H26N4O8
